US07645771B2
A mixture of 1-(8-{2-[4-(1,3-benzodioxol-5-yl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole dihydrochloride (0.20 g, 0.39 mmol), triethylamine (0.17 mL, 1.25 mmol) and isobutyric acid (34 mg, 0.39 mmol) in dimethylformamide (1.25 mL) was treated with O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (163 mg, 0.43 mmol) and the resulting mixture was stirred for 1 h at rt. The mixture was diluted with water and the resulting precipitate was collected, washed with saturated sodium bicarbonate solution, with water and dried to give 1-((1R,5S)-8-{2-[4-(1,3-benzodioxol-5-yl)-1-isobutyrylpiperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole as a solid (0.15 g, 72%). HRMS C33H42N4O3 m/z 543.3335 (M+H)Cal. 543.3322 (M+H)Obs..

reactant | 1-(8-{2-[4-(1,3-benzodioxol-5-yl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole dihydrochloride | 0.39 mmol, 0.20 g | Cl.Cl.O1COC2=C1C=CC(=C2)C2(CCNCC2)CCN2C1CC(CC2CC1)N1C(=NC2=C1C=CC=C2)C
reactant | triethylamine | 1.25 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyric acid | 0.39 mmol, 34 mg | C(C(C)C)(=O)O | C4H8O2
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.43 mmol, 163 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 1.25 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-((1R,5S)-8-{2-[4-(1,3-benzodioxol-5-yl)-1-isobutyrylpiperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole | 0.15 g, 72% | O1COC2=C1C=CC(=C2)C2(CCN(CC2)C(C(C)C)=O)CCN2[C@H]1CC(C[C@@H]2CC1)N1C(=NC2=C1C=CC=C2)C | C33H42N4O3
